US04059433
A mixture of 11 g of 5-amino-4-cyano-3-propoxyisothiazole (prepared as in V C), and 19 grams of isobutyric anhydride was heated to approximately 80° and a catalytic amount of gaseous hydrogen chloride was added. The gas addition resulted in an exothermic reaction. The reaction mixture was heated at 100° for 3-4 hours and then evaporated to dryness under reduced pressure. The residue was recrystallized from ethanol in the presence of activated charcoal, to give 12.6 g of N-(4-cyano-3-propoxy-5-isothiazolyl)-2-methylpropanamide, m.p. 220°-221°. The nmr and ir spectra were consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-propoxyisothiazole | 11 g | NC1=C(C(=NS1)OCCC)C#N | C7H9N3OS
reactant | isobutyric anhydride | 19 grams | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | hydrogen chloride | Cl | ClH
product | N-(4-cyano-3-propoxy-5-isothiazolyl)-2-methylpropanamide | 12.6 g | C(#N)C=1C(=NSC1NC(C(C)C)=O)OCCC | C11H15N3O2S
